US06924323B2
In 600 ml of tetrahydrofuran were dissolved, 21.1 g (0.1 mol) of diphenylsulfoxide under nitrogen atmosphere, then 27.2 g (0.25 mol) of chlorotrimetylsilane was poured into them. A Grignard reagent prepared from 39.3 g (0.25 mol) of bromobenzene and 6.1 g of magnesium metal in accordance with the conventional manner was added dropwise thereto under ice-cooling, followed by allowing to react at the same temperature for 3 hours. After completion of the reaction, 500 ml of 24% aqueous solution of hydrobromic acid was added dropwise to the reaction solution at 0 to 5° C., and then 600 ml of toluene was poured into them, followed by stirring and separation, the organic layer was extracted twice with 120 ml of 12% aqueous solution of hydrobromic acid, and the resulting aqueous layers were combined and extracted 3 times with 480 ml of methylene chloride. The resulting organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 23.3 g (yield: 68%) of triphenylsulfonium bromide as a white crystal.

reactant | diphenylsulfoxide | 0.1 mol, 21.1 g | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | chlorotrimetylsilane | 0.25 mol, 27.2 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | bromobenzene | 0.25 mol, 39.3 g | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 6.1 g | [Mg] | Mg
reactant | hydrobromic acid | Br | BrH
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | triphenylsulfonium bromide | 23.3 g, yield: 68% | [Br-].C1(=CC=CC=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C18H15S.BrH/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)18-14-8-3-9-15-18;/h1-15H;1H/q+1;/p-1
